** Generated for: hspiceD
** Generated on: Jun 19 10:29:58 2019
** Design library name: ALIGN_circuits_ASAP7nm
** Design cell name: switched_capacitor_filter_spice
** Design view name: schematic

** Library name: ALIGN_circuits_ASAP7nm
** Cell name: telescopic_ota
** View name: schematic
.global vss
.subckt telescopic_ota_with_bias d1 vdd vinn vinp vss vout
m9 vpgate vbiasn net8s vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=12 nf=6
m9s net8s vbiasn net8 vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=12 nf=6
m8 vout vbiasn net014s vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=12 nf=6
m8s net014s vbiasn net014 vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=12 nf=6
m5 D1 D1 netm5s vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=4
m5s netm5s D1 vss vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=4
m4 net10 D1 netm4s vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=20
m4s netm4s D1 vss vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=20
m3 net014 vinn netm3s vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=10 nf=14
m3s netm3s vinn net10 vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=10 nf=14
m0 net8 vinp netm0s vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=10 nf=14
m0s netm0s vinp net10 vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=10 nf=14
m7 vout vbiasp net012s vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=8 nf=12
m7s net012s vbiasp net012 vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=8 nf=12
m6 vpgate vbiasp net06s vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=8 nf=12
m6s net06s vbiasp net06 vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=8 nf=12
m2 net012 vpgate netm2s vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=12 nf=4
m2s netm2s vpgate vdd vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=12 nf=4
m1 net06 vpgate netm1s vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=12 nf=4
m1s netm1s vpgate vdd vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=12 nf=4
m10 vbiasn vbiasn net5s vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=3 nf=2
m10s net5s vbiasn net5 vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=3 nf=2
m11 net5 vbiasn netm11s vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=2
m11s netm11s vbiasn net10 vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=2
m15 net9 d1 netm15s vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=2
m15s netm15s d1 vss vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=2
m16 net9 net9 netm16s vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=2
m16s netm16s net9 vdd vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=2
m17 vbiasn net9 netm17s vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=2
m17s netm17s net9 vdd vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=2
m12 vbiasp d1 netm12s vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=2
m12s netm12s d1 vss vss sky130_fd_pr__nfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=2
m13 vbiasp vbiasp netm13s vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=3 nf=2
m13s netm13s vbiasp net7 vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=3 nf=2
m14 net7 vbiasp netm14s vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=2
m14s netm14s vbiasp vdd vdd sky130_fd_pr__pfet_01v8 w=270e-9 l=20e-9 nfin=5 nf=2
.ends telescopic_ota_with_bias
** End of subcircuit definition.

.END
